US04229448
4 g of a potassium salt of 5-hydroxy-2-methylpyridine was suspended in 10 ml of dimethylacetamide, and 5.1 g of p-methoxybromobenzene and 450 mg of a copper powder were added to the suspension, followed by allowing the mixture to react in a nitrogen stream at 140° C. for 14 hours. The reaction mixture was diluted with 50 ml of methanol and filtered, and the filtrate was immediately dried to a solid. 100 ml of ethyl acetate was added to the residue, and the mixture was washed with 50 ml of an aqueous sodium hydroxide solution at pH 9. The ethyl acetate layer was washed with water, dried with anhydrous sodium sulfate and immediately dried to obtain 3.9 g of oily 5-(p-methoxyphenoxy)-2-methylpyridine.

reactant | potassium | 4 g | [K] | K
reactant | 5-hydroxy-2-methylpyridine | OC=1C=CC(=NC1)C | C6H7NO
reactant | p-methoxybromobenzene | 5.1 g | COC1=CC=C(C=C1)Br | C7H7BrO
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
solvent | methanol | 50 ml | CO | CH4O
catalyst | copper | 450 mg | [Cu] | Cu
product | 5-(p-methoxyphenoxy)-2-methylpyridine | 3.9 g | COC1=CC=C(OC=2C=CC(=NC2)C)C=C1 | C13H13NO2
